US06759428B2
To a 0° C. solution of (2-chloro-pyridin-4-yl)-methanol (2.00 g, 13 mmol) (prepared from the corresponding carboxylic acid according to the procedure in U.S. Pat. No. 6,218,537), ethyl acetate (30 mL) and triethylamine (2.9 mL, 21 mmol) was added drop wise methansulfonyl chloride (1.4 mL, 18 mmol). The solution was stirred for 10 minutes and then water (5 mL) was added. The reaction mixture was extracted with three 30 mL portions of ethyl acetate, the organics combined and washed with water (30 mL) and brine (30 mL), dried on sodium sulfate, and concentrated to a crude oil. Pentane was added to the residue and stirred at 0° C. The precipitate was collected and dried in vacuo to give methanesulfonic acid 2-chloro-pyridin-4-ylmethyl ester (3.09 g, 100%).

reactant | (2-chloro-pyridin-4-yl)-methanol | 13 mmol, 2.00 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | 21 mmol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | methansulfonyl chloride | 18 mmol, 1.4 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 5 mL | O | H2O
product | methanesulfonic acid 2-chloro-pyridin-4-ylmethyl ester | 3.09 g, 100% | ClC1=NC=CC(=C1)COS(=O)(=O)C | C7H8ClNO3S
